US03948854
42 g of 5-octadecoxy-2-hydroxybenzoic acid hydrazide are suspended in 200 ml of dimethylacetamide and 8 g of pyridine and 19.3 g of chloroformic acid n-octyl ester are added simultaneously over the course of 30 minutes. The reaction mixture is subsequently heated to 80° C for 5 hours whilst stirring, cooled and poured into 1 litre of water. This produces a white precipitate of the N-(5-octadecoxy-2-hydroxybenzoyl)-hydrazinecarboxylic acid n-octyl ester which has been formed (Stabiliser No. 9). The substance is isolated, washed with water, dried at 60° C and recrystallised from acetonitrile. Melting point 85° C.

reactant | 5-octadecoxy-2-hydroxybenzoic acid hydrazide | 42 g | C(CCCCCCCCCCCCCCCCC)OC=1C=CC(=C(C(=O)NN)C1)O | C25H44N2O3
reactant | pyridine | 8 g | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-octyl ester | 19.3 g | C(CCCCCCC)OC(=O)Cl | C9H17ClO2
reactant | water | 1 litre | O | H2O
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | N-(5-octadecoxy-2-hydroxybenzoyl)-hydrazinecarboxylic acid n-octyl ester | C(CCCCCCC)OC(=O)N(N)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C34H60N2O5
